* Schematics Netlist *



V_VDD         $N_0001 0 5V
M_M1         Vo $N_0002 0 0 MbreakN-X  
+ L=1u  
+ W=2u         
V_Vi         $N_0002 0  
+PULSE 0V 5V 10n 2n 2n 40n 100n
C_C1         0 Vo  0.1p  
R_RD         Vo $N_0001  90k  
